US05159067
A solution of (50 g, 0.22 mole) of 2'-deoxyuridine and 62 g (0.22 mole) of trityl chloride in 350 ml of dry pyridine was placed in a preheated (100° C.) flask and stirred at 100° C. under an air condenser for two hours. The reaction mixture was cooled to room temperature and slowly poured into 4 L of vigorously stirred ice-water. The solid obtained was filtered, washed with water until free from pyridine, and dissolved in chloroform and dried (Na2SO4 or MgSO4). Filtration and evaporation of chloroform yielded the 5'-O-trityl-2'-deoxyuridine product as an syrup (96 g, 93%), which was used for the next reaction without further purification.

reactant | 2'-deoxyuridine | 0.22 mole, 50 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | trityl chloride | 0.22 mole, 62 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-trityl-2'-deoxyuridine | 96 g, 93% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C28H26N2O5
